US07572820B2
F. 4-Chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indol-5-yl trifluoromethanesulfonate
To a solution of 4-chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indol-5-ol (1.85 g, 5.17 mmol) in CH2Cl2 (75 mL) was added Et3N (0.58 g, 5.68 mmol) and triflic anhydride (1.6 g, 5.68 mmol). After stirring at rt for 1 h, additional Et3N (0.052 g, 0.52 mmol) and triflic anhydride (0.147 g, 0.52 mmol) were added. After 1 h, the mixture was concentrated in vacuo and the residue was partitioned between EtOAc and 0.1N HCl. The organic phase was washed with water and brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-20% EtOAc-hexanes gradient) to afford the title compound (2.25 g, 88% yield): 1H NMR (400 MHz, CDCl3) δ 8.09 (d, J=9.0 Hz, 1H), 7.95 (d, J=7.8 Hz, 2H), 7.64 (t, J=7.5 Hz, 1H), 7.52 (t, J=7.8 Hz, 2H), 7.37 (d, J=9.3 Hz, 1H), 7.35 (t, J=54.2 Hz, 1H), 7.54 (s, 1H, partially overlapping CHCl3 signal); MS (ES) m/z 488 (M−1).

reactant | 4-chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indol-5-ol | 5.17 mmol, 1.85 g | ClC1=C2C=C(N(C2=CC=C1O)S(=O)(=O)C1=CC=CC=C1)C(F)F | C15H10ClF2NO3S
reactant | Et3N | 5.68 mmol, 0.58 g | CCN(CC)CC | C6H15N
reactant | triflic anhydride | 5.68 mmol, 1.6 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | Et3N | 0.52 mmol, 0.052 g | CCN(CC)CC | C6H15N
reactant | triflic anhydride | 0.52 mmol, 0.147 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indol-5-yl trifluoromethanesulfonate | 2.25 g, 88% yield | FC(S(=O)(=O)OC=1C(=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(F)F)Cl)(F)F | C16H9ClF5NO5S2
